US07576091B2
(2-Methyl-thiazolo[4,5-h]quinazolin-8-yl)-phenyl-amine
(2-Methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-yl)-phenyl-amine (52 mg, 0.18 mmol) and DDQ (48 mg, 0.21 mmol) in toluene (10 mL) were heated under reflux for 16 h using anhydrous conditions. The reaction mixture was diluted with EtOAc, filtered, and concentrated under vacuum. Purification of the residue by flash column chromatography (20% EtOAc:hexane) afforded the title product as a yellow solid (22 mg, 43%): mp 216° C. (dec). Anal. RP-HPLC: tR 15.1 min (0-60% MeCN, purity 100%). 1H-NMR (DMSO-d6): δ 10.11 (s, 1H, NH), 9.38 (s, 1H, Py-H), 7.98 (d, 2H, J 7.7, Ph-H), 7.93 (d, 1H, J 8.7, CH), 7.84 (d, 1H, J 8.7, CH), 7.36 (t, 2H, J7.7, Ph-H), 7.02 (t, 1H, J 7.7, Ph-H), 2.91 (s, 3H, CH3). MS (ESI+): m/z 293.07 (M+H)+.

reactant | (2-Methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-yl)-phenyl-amine | 0.18 mmol, 52 mg | CC=1SC2=C(CCC=3C=NC(=NC23)NC2=CC=CC=C2)N1 | C16H14N4S
reactant | DDQ | 0.21 mmol, 48 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2-Methyl-thiazolo[4,5-h]quinazolin-8-yl)-phenyl-amine | 22 mg, 43% | CC=1SC2=C(C=CC=3C=NC(=NC23)NC2=CC=CC=C2)N1 | C16H12N4S
